US03968226
An intimate mixture of D-p-hydroxyphenylglycine (3.34 g., 0.02 mol.) and MgO (1.61 g., 0.04 mol.) was suspended in 50% aqueous dioxane with stirring and T-butoxycarbonyl azide (5.72 g., 0.04 mol.) was added along with additional solvent (10 ml.). The reaction mixture was heated with stirring at 50° for 18 hours and then poured into cold water (250 ml.). The resultant solution was filtered, decolorized and extracted with ethyl acetate. The aqueous phase was covered with fresh ethyl acetate, cooled to 5°, and adjusted to pH 2.9 with 40% H3PO4. The aqueous layer was separated and re-extracted with ethyl acetate. The organic extracts were combined, dried and evaporated to give the N-t-butoxycarbonyl-p-hydroxyphenyl-glycine.

reactant | D-p-hydroxyphenylglycine | 0.02 mol, 3.34 g | C1=CC(=CC=C1[C@H](C(=O)O)N)O | C8H9NO3
reactant | T-butoxycarbonyl azide | 0.04 mol, 5.72 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | water | 250 ml | O | H2O
reactant | dioxane | O1CCOCC1 | C4H8O2
product | N-t-butoxycarbonyl-p-hydroxyphenyl-glycine | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=C(C=C1)O | C13H17NO5
